US07094801B2
Ex-74B: To a mixture of 2,4-dimethoxy-5-bromo-benzaldehye (0.28 g, 1.13 mmol), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazole-1-carboxylic acid tert-butyl ester (Ex-76A, 0.61 g, 1.70 mmol), bis(tri-tert-butylphosphine)palladium (43 mg, 0.085 mmol) and potassium fluoride (0.24 g, 4.08 mmol) was added degassed tetrahydrofuran (15 mL). The reaction mixture was heated at 60° C. for one day. Additional potassium fluoride (0.24 g, 4.08 mmol) and water (20 μL) were added. The reaction mixture continued to stir at 60° C. for another 8 hours. The reaction was then quenched by water. The aqueous solution was extracted with ethyl acetate. The solution of ethyl acetate was washed with saturated solution of sodium bicarbonate, brine, dried over sodium sulfate and concentrated. The crude product was purified by flash chromatography. Elution with ethyl acetate (50%, v/v, in hexane) afforded 4-(5-formyl-2,4-dimethoxy-phenyl)-pyrazole-1-carboxylic acid tert-butyl ester (0.15 g, 40%) as white solid. 1H NMR (CDCl3) δ 10.35 (s, 1H), 8.43 (s, 1H), 8.09 (s, 1H), 8.02 (s, 1H), 6.52 (s, 1H), 4.02 (s, 3H), 3.99 (s, 3H), 1.68 (s, 9H). MS m/z=333 ([M+H]+, 100%).

reactant | 2,4-dimethoxy-5-bromo-benzaldehye | 1.13 mmol, 0.28 g | COC1=C(C=O)C=C(C(=C1)OC)Br | C9H9BrO3
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazole-1-carboxylic acid tert-butyl ester | 1.70 mmol, 0.61 g | C(C)(C)(C)OC(=O)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C14H23BN2O4
reactant | potassium fluoride | 4.08 mmol, 0.24 g | [F-].[K+]
reactant | potassium fluoride | 4.08 mmol, 0.24 g | [F-].[K+]
catalyst | bis(tri-tert-butylphosphine)palladium | 0.085 mmol, 43 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | water | 20 μL | O | H2O
product | 4-(5-formyl-2,4-dimethoxy-phenyl)-pyrazole-1-carboxylic acid tert-butyl ester | 0.15 g, 40% | C(C)(C)(C)OC(=O)N1N=CC(=C1)C1=C(C=C(C(=C1)C=O)OC)OC | C17H20N2O5
